US04728654
2-Methoxy-6-[4-methylsulphinylphenyl]quinoline
A solution of m-chloroperbenzoic acid (0.56 g) in dichloromethane (5 cm3) was added dropwise at -70° to a stirred solution of 2-methoxy-6-[4-methylthiophenyl]quinoline (0.7 g) in dichloromethane (10 cm3). The mixture was warmed to room temperature over 1 hour, taken into dichloromethane (25 cm3) and washed with sodium carbonate solution (10 cm3). The organic phase was dried (MgSO4) and evaporated and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with chloroform:methanol, 19:1. The appropriate fractions were combined and evaporated to give a solid which was recrystallised from acetone-hexane to afford the title compound, m.p. 163.5°-165.5°, (0.55 g).

reactant | m-chloroperbenzoic acid | 0.56 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methoxy-6-[4-methylthiophenyl]quinoline | 0.7 g | COC1=NC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)SC | C17H15NOS
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
product | 2-Methoxy-6-[4-methylsulphinylphenyl]quinoline | COC1=NC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)S(=O)C | C17H15NO2S
